US05849911
1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-5(S)-2,5-bis[N-(N-methoxycarbonyl-(L)-valyl)amino]-6-phenyl-2-azahexane
Analogously to Example 7, 140 mg (0.80 mmol) of N-methoxycarbonyl-(L)-valine, 288 mg (1.5 mmol) of EDC and 135 mg (1.0 mmol) of HOBT in 2.2 ml of DMF and 418 μl (3.0 mmol) of TEA are reacted with 0.5 mmol of 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane in 4.5 ml of DMF to form the title compound: m.p: 207°-210° C.; HPLC20-100 : tRet =13.8; FAB MS (M+H)+ =683.

reactant | N-methoxycarbonyl-(L)-valine | 0.80 mmol, 140 mg | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | EDC | 1.5 mmol, 288 mg
reactant | HOBT | 1.0 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | 0.5 mmol | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N | C27H35N5O4S
solvent | DMF | 2.2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-5(S)-2,5-bis[N-(N-methoxycarbonyl-(L)-valyl)amino]-6-phenyl-2-azahexane | CC(C)[C@@H](C(=O)N[C@@H](CC1=CC=CC=C1)[C@H](CN(CC2=CC=C(C=C2)C3=NC=CS3)NC(=O)[C@H](C(C)C)NC(=O)OC)O)NC(=O)OC | C34H46N6O7S
